US08293768B2
Synthesis of 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-((3-methylthiophen-2-yl)methyl)thiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with (3-methylthiophen-2-yl)methanamine, the title compound was obtained as a colorless solid in 73% yield: 1H NMR (300 MHz, CDCl3) δ 7.30-7.23 (m, 2H), 7.13 (d, J=5.0 Hz, 1H), 7.08-6.99 (m, 2H), 6.82 (d, J=5.0 Hz, 1H), 6.08 (s, 1H), 5.83 (br s, 1H), 4.65 (d, J=5.0 Hz, 2H), 4.42 (s, 2H), 3.83-3.74 (m, 2H), 3.47-3.39 (m, 2H), 2.49 (s, 3H), 2.24 (s, 3H); MS (ES+) m/z 444.2 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | (3-methylthiophen-2-yl)methanamine | CC1=C(SC=C1)CN | C6H9NS
product | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-((3-methylthiophen-2-yl)methyl)thiophene-2-carboxamide | 73% yield | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)NCC=2SC=CC2C)C)=O)C=C1 | C22H22FN3O2S2
